US08058300B2
Step 1: 1-(3,5-Dibromo-phenyl)-ethanone:
To a solution of 3,5-dibromobenzoic acid (2.5 g, 8.9 mmol) in Et2O (30 mL) at 0° C. was added methyllithium (1.6M in Et2O; 12.3 mL, 19.6 mmol) dropwise. The reaction was stirred at 0° C. for 2 hours, and then worked-up with EtOAc and 10% aqueous HCl. The crude material was purified by silica gel chromatography to give the title compound.

reactant | 3,5-dibromobenzoic acid | 8.9 mmol, 2.5 g | BrC=1C=C(C(=O)O)C=C(C1)Br | C7H4Br2O2
reactant | methyllithium | 19.6 mmol, 1.6M, 12.3 mL | C[Li]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | Cl | ClH
solvent | Et2O | 30 mL | CCOCC | C4H10O
product | 1-(3,5-Dibromo-phenyl)-ethanone | BrC=1C=C(C=C(C1)Br)C(C)=O | C8H6Br2O
